Design:  /top/students/UNGRAD/ECE/dolmant/home/potentiostat/1.default
.options  tnom=27
.temp 27
V_I$3157 POS2 0 offsetv
V_I$1272 POS1 0 offsetv
V_I$1475 VCCP 0 supplyv
V_I$1476 VCCM 0 '-supplyv'
V_I$3150 N$4493 0 supplyv
V_I$3159 N$4492 0 '-supplyv'
L_I$2539 N$2853 N$2855  100p
R_I$2540 N$2855 WE 100
R_I$412 N$2852 N$2853 1k
R_I$208 WE out1 1Meg
R_I$2948 out1 N$4085 0.1K
R_I$3155 N$4085 out2 1Meg
C_I$2542 WE 0 10f
C_I$2541 N$2855 0 10f
C_I$1882 N$2852 N$2853 5f
X_I$5186_I$1 POS2 N$4085 N$4493 N$4492 out2  OPA827 
X_I$4984_I$1 POS1 WE VCCP VCCM out1  OPA827 
I_I$411 0 N$2852 10uA
.op  NO_SMALL_SIGNAL
*
* Beginning of translation table for device INSTANCE names
*  Netlist Name       Schematic Name
*
*  R_I$412            /I$412
*  I_I$411            /I$411
*  C_I$2541           /I$2541
*  C_I$2542           /I$2542
*  C_I$1882           /I$1882
*  R_I$208            /I$208
*  R_I$3155           /I$3155
*  X_I$4984_I$1       /I$4984/I$1
*  L_I$2539           /I$2539
*  V_I$3150           /I$3150
*  V_I$3157           /I$3157
*  V_I$3159           /I$3159
*  V_I$1272           /I$1272
*  R_I$2948           /I$2948
*  V_I$1475           /I$1475
*  V_I$1476           /I$1476
*  R_I$2540           /I$2540
*  X_I$5186_I$1       /I$5186/I$1
* End of translation table for device INSTANCE names
*
* Beginning of translation table for device MODEL names
*  Netlist Name       Schematic Name
*
*  OPA827             OPA827
*  ACCUSIM            ACCUSIM
* End of translation table for device MODEL names
*
* Beginning of translation table for NODE names
*  Netlist Name       Schematic Name
*
*  0                  //ground
*  N$4493             /N$4493
*  N$4492             /N$4492
*  out2               /out2
*  VCCP               /VCCP
*  VCCM               /VCCM
*  out1               /out1
*  N$4085             /N$4085
*  POS2               /POS2
*  N$2855             /N$2855
*  WE                 /WE
*  N$2853             /N$2853
*  N$2852             /N$2852
*  POS1               /POS1
* End of translation table for NODE names
* >KEEP
* >ENDKEEP
.END
